US05817670
Under ice-cooling, 2.9 g of 90% potassium tert-butoxide was added to 70 ml of tetrahydrofuran solution containing 6.4 g of N-(3-cyclohexylcarbonyl-2-pyridyl)-N-ethylacetamide, and the mixture was stirred at room temperature for 30 minutes. The reaction solution was mixed with water and extracted with ethyl acetate, and the resulting organic layer was dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (toluene-ethyl acetate) to give 4.5 g of 4-cyclohexyl-1-ethyl-1,8-naphthyridin-2(1H)-one.

reactant | potassium tert-butoxide | 2.9 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
reactant | N-(3-cyclohexylcarbonyl-2-pyridyl)-N-ethylacetamide | 6.4 g | C1(CCCCC1)C(=O)C=1C(=NC=CC1)N(C(C)=O)CC | C16H22N2O2
solvent | water | O | H2O
product | 4-cyclohexyl-1-ethyl-1,8-naphthyridin-2(1H)-one | 4.5 g | C1(CCCCC1)C1=CC(N(C2=NC=CC=C12)CC)=O | C16H20N2O
